.include "/foss/pdks/ciel/gf180mcu/versions/7b70722e33c03fcb5dabcf4d479fb0822d9251c9/gf180mcuD/libs.ref/gf180mcu_fd_sc_mcu7t5v0/spice/gf180mcu_fd_sc_mcu7t5v0.spice"
.include "/foss/designs/AURA-Event-Driven-Mixed-Signal-ASIC-for-Acoustic-Pattern-Detection/analog/digital_top.spice"
.subckt B04_TOP Vin Venvelope Vbpf VDD GND Vout sda scl en Vthreshold
XX_ANALOG VDD net_cap0 net_cap1 Vthreshold net_cap2 net_comp Vin GND Vbpf Venvelope B04_AFE_top
XX_CLOCK VDD internal_clk GND B04_clock_gen
XX_DIGITAL VDD GND net_cap0 net_cap1 net_cap2 internal_clk net_comp en scl sda Vout digital_top
.ends

** sch_path: /foss/designs/AURA-Event-Driven-Mixed-Signal-ASIC-for-Acoustic-Pattern-Detection/analog/clock/sch/B04_clock_gen.sch
.subckt B04_clock_gen VDD Vout GND
*.PININFO GND:B VDD:B Vout:O
M1 net2 net3 VDD VDD pfet_03v3 L=1u W=0.5u nf=1
M2 net2 net3 GND GND nfet_03v3 L=1u W=0.5u nf=1
M3 Vout net2 VDD VDD pfet_03v3 L=1u W=0.5u nf=1
M4 Vout net2 GND GND nfet_03v3 L=1u W=0.5u nf=1
M5 net1 GND Vout VDD pfet_03v3 L=10u W=0.5u nf=1
M6 Vout VDD net1 GND nfet_03v3 L=20u W=0.5u nf=1
XC2 net1 GND cap_mim_2f0fF c_width=10u c_length=20u m=12
x1 VDD net1 net3 GND B04_schmitt_trigger
.ends

* expanding   symbol:  AURA-Event-Driven-Mixed-Signal-ASIC-for-Acoustic-Pattern-Detection/analog/clock/sch/B04_schmitt_trigger.sym
*+ # of pins=4
** sym_path: /foss/designs/AURA-Event-Driven-Mixed-Signal-ASIC-for-Acoustic-Pattern-Detection/analog/clock/sch/B04_schmitt_trigger.sym
** sch_path: /foss/designs/AURA-Event-Driven-Mixed-Signal-ASIC-for-Acoustic-Pattern-Detection/analog/clock/sch/B04_schmitt_trigger.sch
.subckt B04_schmitt_trigger VDD Vin Vout GND
*.PININFO VDD:B GND:B Vin:I Vout:O
M1 net1 Vin net2 VDD pfet_03v3 L=27u W=0.5u nf=1
M2 Vout Vin net1 VDD pfet_03v3 L=27u W=0.5u nf=1
M3 net1 Vout GND VDD pfet_03v3 L=1u W=1u nf=1
M4 Vout Vin net3 GND nfet_03v3 L=27u W=0.5u nf=1
M5 net3 Vin GND GND nfet_03v3 L=27u W=0.5u nf=1
M6 net3 Vout VDD GND nfet_03v3 L=1u W=1u nf=1
M7 net2 GND VDD VDD pfet_03v3 L=27u W=0.5u nf=1
M8 GND VDD GND GND nfet_03v3 L=27u W=0.5u nf=1
.ends

* expanding   symbol:  AURA-Event-Driven-Mixed-Signal-ASIC-for-Acoustic-Pattern-Detection/analog/B04_AFE_top.sym # of pins=10
.subckt B04_AFE_top VDD Cap0 Cap1 Vthreshold Cap2 Vout Vin GND Vbpf Venvelope
*.PININFO Vin:I VDD:B GND:B Vout:O Cap0:I Cap1:I Cap2:I Vthreshold:I Vbpf:O Venvelope:O
x5 VDD VbiasP net2 Vin GND B04_LNAv2
x3 VDD VbiasP VbiasN GND B04_BMR
x2 net1 net2 net3 B04_coupling
x1 VDD net3 GND VbiasP VbiasN B04_VDD05
x4 Cap0 Cap1 Cap2 VDD net1 net4 net3 VbiasP VbiasN GND B04_BPF4
x6 VDD net4 net5 VbiasN GND B04_envelope
x7 VDD Vout Vthreshold net5 VbiasP GND B04_comparator
x8 VDD net4 Vbpf net5 Venvelope GND VbiasP VbiasN B04_buffer_out
.ends

* expanding   symbol:  AURA-Event-Driven-Mixed-Signal-ASIC-for-Acoustic-Pattern-Detection/analog/B04_LNAv2.sym # of pins=5
.subckt B04_LNAv2 VDD VbiasP Vout Vin GND
*.PININFO VbiasP:I Vin:I VDD:B GND:B Vout:O
M1 Vout VbiasP VDD VDD pfet_03v3 L=4u W=1u nf=1 m=40
M2 Vout net1 GND GND nfet_03v3 L=1u W=40u nf=10 m=10
XC1 Vout net1 cap_mim_2f0fF c_width=10u c_length=10u
XC2 net1 Vin cap_mim_2f0fF c_width=10u c_length=10u m=20
M3 Vout Vout net1 net1 pfet_03v3 L=20u W=1u nf=1
M4 net1 net1 Vout Vout pfet_03v3 L=20u W=1u nf=1
.ends

* expanding   symbol:  AURA-Event-Driven-Mixed-Signal-ASIC-for-Acoustic-Pattern-Detection/analog/B04_BMR.sym # of pins=4
.subckt B04_BMR VDD VbiasP VbiasN GND
*.PININFO VDD:B GND:B VbiasP:O VbiasN:O
M2 VbiasN VbiasP VDD VDD pfet_03v3 L=4u W=1u nf=1 m=2
M3 net2 VbiasP VDD VDD pfet_03v3 L=4u W=1u nf=1 m=2
M6 VbiasN VbiasN GND GND nfet_03v3 L=4u W=10u nf=1
M7 net2 VbiasN net1 GND nfet_03v3 L=4u W=20u nf=2 m=2
M1 net4 net4 VDD VDD pfet_03v3 L=40u W=0.5u nf=1
M4 VbiasP net3 VbiasN GND nfet_03v3 L=1u W=1u nf=1
M5 net3 VbiasN GND GND nfet_03v3 L=1u W=20u nf=1
M8 net5 net5 net4 VDD pfet_03v3 L=40u W=0.5u nf=1
M9 net3 net3 net5 VDD pfet_03v3 L=40u W=0.5u nf=1
x1 VDD VbiasP net2 VbiasN VbiasN GND B04_diff_amp
XR1 GND net1 GND ppolyf_u_1k r_width=2u r_length=820u
Mdummy VDD VDD VDD VDD pfet_03v3 L=4u W=1u nf=1
Mdummy1 VDD VDD VDD VDD pfet_03v3 L=4u W=1u nf=1
Mdummy2 GND GND GND GND nfet_03v3 L=4u W=10u nf=1
Mdummy3 GND GND GND GND nfet_03v3 L=4u W=10u nf=1
XC1 VbiasP VbiasN cap_mim_2f0fF c_width=10u c_length=10u m=20
.ends

* expanding   symbol:  AURA-Event-Driven-Mixed-Signal-ASIC-for-Acoustic-Pattern-Detection/analog/B04_coupling.sym # of pins=3
.subckt B04_coupling Vout Vin VDD05
*.PININFO Vin:I VDD05:I Vout:O
XC1 Vin Vout cap_mim_2f0fF c_width=10u c_length=10u m=20
M3 VDD05 VDD05 Vout Vout pfet_03v3 L=4u W=0.5u nf=1
M4 Vout Vout VDD05 VDD05 pfet_03v3 L=4u W=0.5u nf=1
.ends

* expanding   symbol:  AURA-Event-Driven-Mixed-Signal-ASIC-for-Acoustic-Pattern-Detection/analog/B04_VDD05.sym # of pins=5
.subckt B04_VDD05 VDD Vout GND VbiasP VbiasN
*.PININFO VbiasP:I VbiasN:I GND:B VDD:B Vout:O
XR1 net4 VDD GND ppolyf_u_1k r_width=2u r_length=600u
XR2 GND net4 GND ppolyf_u_1k r_width=2u r_length=600u
XR3 GND GND GND ppolyf_u_1k r_width=8u r_length=30u
x1 VDD net1 net4 Vout net3 net5 Vout net2 GND B04_OTA
x2 VDD VbiasP net1 net2 net3 net5 VbiasN GND B04_OTA_bias_ratio_5
.ends

* expanding   symbol:  AURA-Event-Driven-Mixed-Signal-ASIC-for-Acoustic-Pattern-Detection/analog/B04_BPF4.sym # of pins=10
.subckt B04_BPF4 cap0 cap1 cap2 VDD Vin Vout VDD05 VbiasP VbiasN GND
*.PININFO VDD:B GND:B Vin:I Vout:O VDD05:I VbiasP:I VbiasN:I cap0:I cap1:I cap2:I
**** begin user architecture code
.param m_cap=64
**** end user architecture code
**** begin user architecture code
.param m_cap_1=30
**** end user architecture code
x1 VDD VbiasP net1 net3 net4 net2 VbiasN GND B04_OTA_bias_ratio_025
x2 VDD VbiasP net5 net7 net8 net6 VbiasN GND B04_OTA_bias_ratio_025
x7 VDD VbiasP net9 net11 net12 net10 VbiasN GND B04_OTA_bias_ratio_04
x8 VDD VbiasP net13 net15 net16 net14 VbiasN GND B04_OTA_bias_ratio_04
x3 VDD net1 Vin VDD05 net4 net2 net19 net3 GND B04_OTA
x4 VDD net5 VDD05 net19 net8 net6 net19 net7 GND B04_OTA
x5 VDD net9 net19 VDD05 net12 net10 net20 net11 GND B04_OTA
x6 VDD net13 VDD05 net20 net16 net14 net19 net15 GND B04_OTA
x9 VDD net1 net19 VDD05 net4 net2 net17 net3 GND B04_OTA
x10 VDD net5 VDD05 net17 net8 net6 net17 net7 GND B04_OTA
x11 VDD net9 net17 VDD05 net12 net10 net18 net11 GND B04_OTA
x12 VDD net13 VDD05 net18 net16 net14 net17 net15 GND B04_OTA
XC1 net19 GND cap_mim_2f0fF c_width=10u c_length=10u m=50
XC5 GND GND cap_mim_2f0fF c_width=10u c_length=10u m=48
XC6 GND GND cap_mim_2f0fF c_width=10u c_length=10u m=48
XC7 GND GND cap_mim_2f0fF c_width=10u c_length=10u m=48
XC8 GND GND cap_mim_2f0fF c_width=10u c_length=10u m=48
XC9 net25 VDD05 cap_mim_2f0fF c_width=10u c_length=10u m=20
XC10 Vout net25 cap_mim_2f0fF c_width=10u c_length=10u
M1 net25 net25 Vout Vout pfet_03v3 L=4u W=0.5u nf=1
M2 Vout Vout net25 net25 pfet_03v3 L=4u W=0.5u nf=1
x13 VDD net21 net17 net25 net24 net22 Vout net23 GND B04_OTA
M3 net26 cap0 GND GND nfet_03v3 L=1u W=0.5u nf=1
XC11 net19 net26 cap_mim_2f0fF c_width=10u c_length=10u m=10
M4 net27 cap1 GND GND nfet_03v3 L=1u W=0.5u nf=1
XC12 net19 net27 cap_mim_2f0fF c_width=10u c_length=10u m=20
M5 net28 cap2 GND GND nfet_03v3 L=1u W=0.5u nf=1
XC13 net19 net28 cap_mim_2f0fF c_width=10u c_length=10u m=40
XC2 net20 GND cap_mim_2f0fF c_width=10u c_length=10u m=50
M6 net29 cap0 GND GND nfet_03v3 L=1u W=0.5u nf=1
XC14 net20 net29 cap_mim_2f0fF c_width=10u c_length=10u m=10
M7 net30 cap1 GND GND nfet_03v3 L=1u W=0.5u nf=1
XC15 net20 net30 cap_mim_2f0fF c_width=10u c_length=10u m=20
M8 net31 cap2 GND GND nfet_03v3 L=1u W=0.5u nf=1
XC16 net20 net31 cap_mim_2f0fF c_width=10u c_length=10u m=40
XC17 net17 GND cap_mim_2f0fF c_width=10u c_length=10u m=50
M9 net32 cap0 GND GND nfet_03v3 L=1u W=0.5u nf=1
XC18 net17 net32 cap_mim_2f0fF c_width=10u c_length=10u m=10
M10 net33 cap1 GND GND nfet_03v3 L=1u W=0.5u nf=1
XC19 net17 net33 cap_mim_2f0fF c_width=10u c_length=10u m=20
M11 net34 cap2 GND GND nfet_03v3 L=1u W=0.5u nf=1
XC20 net17 net34 cap_mim_2f0fF c_width=10u c_length=10u m=40
XC21 net18 GND cap_mim_2f0fF c_width=10u c_length=10u m=50
M12 net35 cap0 GND GND nfet_03v3 L=1u W=0.5u nf=1
XC22 net18 net35 cap_mim_2f0fF c_width=10u c_length=10u m=10
M13 net36 cap1 GND GND nfet_03v3 L=1u W=0.5u nf=1
XC23 net18 net36 cap_mim_2f0fF c_width=10u c_length=10u m=20
M14 net37 cap2 GND GND nfet_03v3 L=1u W=0.5u nf=1
XC24 net18 net37 cap_mim_2f0fF c_width=10u c_length=10u m=40
x14 VDD VbiasP net21 net23 net24 net22 VbiasN GND B04_OTA_bias_ratio_5
.ends

* expanding   symbol:  AURA-Event-Driven-Mixed-Signal-ASIC-for-Acoustic-Pattern-Detection/analog/B04_envelope.sym # of pins=5
.subckt B04_envelope VDD Vin Vout VbiasN GND
*.PININFO VDD:B GND:B Vin:I Vout:O VbiasN:I
M1 VDD Vin Vout GND nfet_03v3 L=1u W=2u nf=1
M2 net2 VbiasN net1 GND nfet_03v3 L=4u W=0.5u nf=1
XC2 GND Vout cap_mim_2f0fF c_width=10u c_length=10u m=100
M3 net1 VbiasN GND GND nfet_03v3 L=4u W=0.5u nf=1
M4 net3 VbiasN net2 GND nfet_03v3 L=4u W=0.5u nf=1
M5 net4 VbiasN net3 GND nfet_03v3 L=4u W=0.5u nf=1
M6 Vout VbiasN net4 GND nfet_03v3 L=4u W=0.5u nf=1
.ends

* expanding   symbol:  AURA-Event-Driven-Mixed-Signal-ASIC-for-Acoustic-Pattern-Detection/analog/B04_comparator.sym # of pins=6
.subckt B04_comparator VDD Q_BAR INN INP VbiasP GND
*.PININFO VDD:B GND:B INN:I INP:I Q_BAR:O VbiasP:I
M1 net3 net1 GND GND nfet_03v3 L=0.56u W=1u nf=1
M2 net1 net1 GND GND nfet_03v3 L=0.56u W=1u nf=1
M3 net2 net2 GND GND nfet_03v3 L=0.56u W=1u nf=1
Mqqq net4 INN net3 GND nfet_03v3 L=0.28u W=2u nf=1
Mqqq1 net5 INP net3 GND nfet_03v3 L=0.28u W=2u nf=1
M6 Q_BAR net2 GND GND nfet_03v3 L=0.56u W=1u nf=1
Mq0 net4 net4 VDD VDD pfet_03v3 L=0.28u W=1.5u nf=1
Mq1 net2 net4 VDD VDD pfet_03v3 L=0.28u W=1.5u nf=1
Mq4 net4 net5 VDD VDD pfet_03v3 L=0.28u W=3.5u nf=1
Mq5 net5 net4 VDD VDD pfet_03v3 L=0.28u W=3.5u nf=1
Mq2 net5 net5 VDD VDD pfet_03v3 L=0.28u W=1.5u nf=1
Mq3 Q_BAR net5 VDD VDD pfet_03v3 L=0.28u W=1.5u nf=1
Mq6 VDD VbiasP net1 VDD pfet_03v3 L=4u W=2u nf=1
.ends

* expanding   symbol:  AURA-Event-Driven-Mixed-Signal-ASIC-for-Acoustic-Pattern-Detection/analog/B04_buffer_out.sym # of pins=8
.subckt B04_buffer_out VDD Vinbpf Vbpf Vinenvelope Venvelope GND VbiasP VbiasN
*.PININFO Vbpf:O Venvelope:O Vinbpf:I Vinenvelope:I VbiasP:I VbiasN:I GND:B VDD:B
x8 VDD VbiasP net1 net3 net4 net2 VbiasN GND B04_OTA_bias_ratio_5
x9 VDD net1 Vinenvelope Venvelope net4 net2 Venvelope net3 GND B04_OTA
x10 VDD net1 Vinbpf Vbpf net4 net2 Vbpf net3 GND B04_OTA
.ends

* expanding   symbol:  AURA-Event-Driven-Mixed-Signal-ASIC-for-Acoustic-Pattern-Detection/analog/B04_diff_amp.sym # of pins=6
.subckt B04_diff_amp VDD Vo V+ V- Vbias VSS
*.PININFO VDD:B VSS:B V+:I V-:I Vo:O Vbias:I
M1 net1 V+ net2 VSS nfet_03v3 L=4u W=0.55u nf=1 m=2
M2 net2 Vbias VSS VSS nfet_03v3 L=4u W=2.2u nf=1
M3 Vo V- net2 VSS nfet_03v3 L=4u W=0.55u nf=1 m=2
M4 Vo net1 VDD VDD pfet_03v3 L=4u W=6.5u nf=1 m=2
M5 net1 net1 VDD VDD pfet_03v3 L=4u W=6.5u nf=1 m=2
MDummy VDD VDD VDD VDD pfet_03v3 L=4u W=6.5u nf=1
MDummy1 VDD VDD VDD VDD pfet_03v3 L=4u W=6.5u nf=1
Mdummy2 VSS VSS VSS VSS nfet_03v3 L=4u W=0.55u nf=1
Mdummy3 VSS VSS VSS VSS nfet_03v3 L=4u W=0.55u nf=1
.ends

* expanding   symbol:  AURA-Event-Driven-Mixed-Signal-ASIC-for-Acoustic-Pattern-Detection/analog/B04_OTA.sym # of pins=9
.subckt B04_OTA VDD Vbias0 Vin+ Vin- Vbias3 Vbias1 Vout Vbias2 GND
*.PININFO VDD:B Vbias0:I Vin+:I Vin-:I Vout:O Vbias3:I Vbias2:I GND:B Vbias1:I
M1 net1 Vbias0 VDD VDD pfet_03v3 L=4u W=5u nf=2
M2 net6 Vin+ net1 VDD pfet_03v3 L=1u W=2u nf=4
M3 net7 Vin- net1 VDD pfet_03v3 L=1u W=2u nf=4
M4 net2 Vin+ net1 VDD pfet_03v3 L=1u W=2u nf=4
M5 net3 Vin- net1 VDD pfet_03v3 L=1u W=2u nf=4
M6 net2 Vbias2 net5 GND nfet_03v3 L=1u W=1u nf=1 m=2
M7 net3 Vbias2 net4 GND nfet_03v3 L=1u W=1u nf=1 m=2
M8 net5 net2 GND GND nfet_03v3 L=4u W=0.5u nf=1 m=2
M9 net6 net3 GND GND nfet_03v3 L=4u W=0.5u nf=1 m=2
M10 net4 net3 GND GND nfet_03v3 L=4u W=0.5u nf=1 m=2
M11 net7 net2 GND GND nfet_03v3 L=4u W=0.5u nf=1 m=2
M12 net9 net10 VDD VDD pfet_03v3 L=4u W=2.5u nf=1 m=2
M13 net8 net10 VDD VDD pfet_03v3 L=4u W=2.5u nf=1 m=2
M14 Vout Vbias3 net9 VDD pfet_03v3 L=4u W=2.5u nf=1 m=2
M15 net10 Vbias3 net8 VDD pfet_03v3 L=4u W=2.5u nf=1 m=2
M16 Vout Vbias2 net7 GND nfet_03v3 L=4u W=0.5u nf=1 m=2
M17 net10 Vbias2 net6 GND nfet_03v3 L=4u W=0.5u nf=1 m=2
M18 net6 Vbias1 GND GND nfet_03v3 L=4u W=0.5u nf=2 m=2
M19 net7 Vbias1 GND GND nfet_03v3 L=4u W=0.5u nf=2 m=2
Mdummy VDD VDD VDD VDD pfet_03v3 L=1u W=0.5u nf=1
Mdummy1 VDD VDD VDD VDD pfet_03v3 L=1u W=0.5u nf=1
Mdummy2 VDD VDD VDD VDD pfet_03v3 L=1u W=0.5u nf=1
Mdummy3 VDD VDD VDD VDD pfet_03v3 L=1u W=0.5u nf=1
Mdummy4 VDD VDD VDD VDD pfet_03v3 L=4u W=2.5u nf=1
Mdummy5 VDD VDD VDD VDD pfet_03v3 L=4u W=2.5u nf=1
Mdummy6 VDD VDD VDD VDD pfet_03v3 L=4u W=2.5u nf=1
Mdummy7 VDD VDD VDD VDD pfet_03v3 L=4u W=2.5u nf=1
Mdummy8 GND GND GND GND nfet_03v3 L=4u W=0.5u nf=1
Mdummy9 GND GND GND GND nfet_03v3 L=4u W=0.5u nf=1
Mdummy10 GND GND GND GND nfet_03v3 L=1u W=1u nf=1
Mdummy11 GND GND GND GND nfet_03v3 L=1u W=1u nf=1
Mdummy12 GND GND GND GND nfet_03v3 L=1u W=1u nf=1
Mdummy13 GND GND GND GND nfet_03v3 L=1u W=1u nf=1
Mdummy16 GND GND GND GND nfet_03v3 L=4u W=0.5u nf=1
Mdummy17 GND GND GND GND nfet_03v3 L=4u W=0.5u nf=1
Mdummy18 GND GND GND GND nfet_03v3 L=4u W=0.5u nf=1
Mdummy19 GND GND GND GND nfet_03v3 L=4u W=0.5u nf=1
.ends

* expanding   symbol:  AURA-Event-Driven-Mixed-Signal-ASIC-for-Acoustic-Pattern-Detection/analog/B04_OTA_bias_ratio_5.sym # of pins=8
.subckt B04_OTA_bias_ratio_5 VDD VbiasP Vbias0 Vbias2 Vbias3 Vbias1 VbiasN GND
*.PININFO VDD:B Vbias2:O Vbias1:O Vbias0:O Vbias3:O GND:B VbiasP:I VbiasN:I
M1 Vbias1 GND Vbias2 VDD pfet_03v3 L=4u W=5u nf=1
M4 Vbias1 Vbias2 net1 GND nfet_03v3 L=4u W=1u nf=1
M5 net1 Vbias1 GND GND nfet_03v3 L=4u W=1u nf=1
M9 net2 Vbias3 Vbias0 VDD pfet_03v3 L=4u W=5u nf=1
M10 VDD Vbias0 net2 VDD pfet_03v3 L=4u W=5u nf=1
M6 Vbias3 VDD Vbias0 GND nfet_03v3 L=4u W=10u nf=1
M2 Vbias2 VbiasP VDD VDD pfet_03v3 L=4u W=25u nf=1
M3 GND VbiasN Vbias3 GND nfet_03v3 L=4u W=50u nf=1
.ends

* expanding   symbol:  AURA-Event-Driven-Mixed-Signal-ASIC-for-Acoustic-Pattern-Detection/analog/B04_OTA_bias_ratio_025.sym # of pins=8
.subckt B04_OTA_bias_ratio_025 VDD VbiasP Vbias0 Vbias2 Vbias3 Vbias1 VbiasN GND
*.PININFO VDD:B Vbias2:O Vbias1:O Vbias0:O Vbias3:O GND:B VbiasP:I VbiasN:I
M1 Vbias1 GND Vbias2 VDD pfet_03v3 L=4u W=5u nf=1
M4 Vbias1 Vbias2 net1 GND nfet_03v3 L=4u W=1u nf=1
M5 net1 Vbias1 GND GND nfet_03v3 L=4u W=1u nf=1
M9 net2 Vbias3 Vbias0 VDD pfet_03v3 L=4u W=5u nf=1
M10 VDD Vbias0 net2 VDD pfet_03v3 L=4u W=5u nf=1
M6 Vbias3 VDD Vbias0 GND nfet_03v3 L=4u W=10u nf=1
M2 Vbias2 VbiasP VDD VDD pfet_03v3 L=4u W=1.25u nf=1
M3 GND VbiasN Vbias3 GND nfet_03v3 L=4u W=2.5u nf=1
.ends

* expanding   symbol:  AURA-Event-Driven-Mixed-Signal-ASIC-for-Acoustic-Pattern-Detection/analog/B04_OTA_bias_ratio_04.sym # of pins=8
.subckt B04_OTA_bias_ratio_04 VDD VbiasP Vbias0 Vbias2 Vbias3 Vbias1 VbiasN GND
*.PININFO VDD:B Vbias2:O Vbias1:O Vbias0:O Vbias3:O GND:B VbiasP:I VbiasN:I
M1 Vbias1 GND Vbias2 VDD pfet_03v3 L=4u W=5u nf=1
M4 Vbias1 Vbias2 net1 GND nfet_03v3 L=4u W=1u nf=1
M5 net1 Vbias1 GND GND nfet_03v3 L=4u W=1u nf=1
M9 net2 Vbias3 Vbias0 VDD pfet_03v3 L=4u W=5u nf=1
M10 VDD Vbias0 net2 VDD pfet_03v3 L=4u W=5u nf=1
M6 Vbias3 VDD Vbias0 GND nfet_03v3 L=4u W=10u nf=1
M2 Vbias2 VbiasP VDD VDD pfet_03v3 L=4u W=2u nf=1
M3 GND VbiasN Vbias3 GND nfet_03v3 L=4u W=4u nf=1
.ends
